* VioAVR SMPS Buck Converter — Digital PI Control via ATmega4809
*
* 12V DC → VDMOS power stage (100kHz PWM on PB0) → LC filter → 3.3V out
* ADC0 feedback via avr_adc_bridge → digital PI compensator in ISR
* Dynamic load step (+5 Ohm) at t=2ms tests transient recovery
*
* External pin IDs (AVR8X megaAVR-0, 32-pin vectors):
*   PORTA=0-7, PORTB=8-15, PORTC=16-23, PORTD=24-31
*   PB0 (ext 8)  = TCA0 WO0 PWM → gate driver
*   PC0 (ext 16) = Heartbeat (toggles in main loop)

.title SMPS Buck Converter — Digital PI Control

.options method=gear reltol=1e-5 vntol=1e-6 chgtol=1e-14 trtol=7

* ===================================================================
* 12V Input
* ===================================================================
V_in vin 0 12

* ===================================================================
* Gate Drive: PB0 PWM → dac_bridge (0-12V) → VDMOS gate
* ===================================================================
A_gate [pb0_dig] [pb0_an 0] gate_bridge
.model gate_bridge dac_bridge(out_low=0 out_high=12 input_load=1e12 t_rise=20n t_fall=20n)
R_gate_pull pb0_dig 0 10k

* ===================================================================
* Power MOSFET (VDMOS, Vto≈2.5V, Rd≈50mOhm)
* ===================================================================
M1 vin sw pb0_an 0 VDMOS_PWR
.model VDMOS_PWR VDMOS(Vto=2.5 Rd=0.05 Rds=1e6 Cgs=500p Cgd=200p)

* ===================================================================
* Freewheeling Schottky Diode
* ===================================================================
D1 0 sw SCHOTTKY
.model SCHOTTKY D(Is=1e-7 N=1.05 Rs=0.01 Cjo=200p VJ=0.5 M=0.5)

* ===================================================================
* LC Output Filter (100uH + 47uF with ESR)
* ===================================================================
L1 sw vout 100uH IC=0.3
C1 vout 0 47uF IC=3.3
R_esr vout vout_sense 0.1

* ===================================================================
* Static Load (10 Ohm)
* ===================================================================
R_load vout_sense 0 10

* ===================================================================
* Dynamic Load Step: +5 Ohm at t=2ms, stays on 1ms
* ===================================================================
V_step_ctrl step_gate 0 PULSE(0 5 2m 1u 1u 1m 10m)
S_step vout_sense load_extra step_gate 0 LOAD_SW
.model LOAD_SW SW(Ron=0.01 Roff=1e9 Vt=2.5 Vh=0.5)
R_extra load_extra 0 5

* ===================================================================
* Feedback Path: Vout → avr_adc_bridge → signal bank ch0 → ADC0
* ===================================================================
A_adc_fb vout_sense dummy_fb adc_fb_model
.model adc_fb_model avr_adc_bridge(channel=0)
R_dummy_fb dummy_fb 0 1k

* ===================================================================
* AVR (ATmega4809)
* ===================================================================
A_AVR
+ [0 0 0 0 0 0 0 0
+  pb0_dig 0 0 0 0 0 0 0
+  pc0_dig 0 0 0 0 0 0 0
+  0 0 0 0 0 0 0 0]
+ [0 0 0 0 0 0 0 0
+  pb0_dig 0 0 0 0 0 0 0
+  pc0_dig 0 0 0 0 0 0 0
+  0 0 0 0 0 0 0 0]
+ d_cosim_model

.model d_cosim_model d_cosim(
+ simulation="./cosim/libavr_cosim.so"
+ sim_args=["atmega4809","simple_pwm.hex","1"]
+ queue_size=1024 irreversible=1 delay=1e-9)

* ===================================================================
* Analysis: 5ms transient, use UIC for initial conditions
* ===================================================================
.tran 0.5u 5m uic

.control
run
print v(vout_sense) v(sw) v(pb0_an) > sim_matrix.log
plot v(vout_sense) v(sw)
.endc

.end
